US08389555B2
STEP D: Preparation of 5-hydroxy-1-(4-phenylpiperazin-1-yl)pentan-1-one
A solution of 5.4 mL (37.5 mmol) Et3N in 10 ml, 2-dichloroethane was added drop by drop under ice cooling to a suspension of 3.70 g (27.5 mmol) AlCl3 in 20mL dichloroethane. At room temperature a solution of 4.21 ml (27.5 mmol) 1-phenylpiperazine and 2.32 mL (25 mmol) delta-valerolactone in 15 mL 1,2-dichloroethane was added to the mixture. After one hour of stirring at room temperature the mixture was quenched with ice water and stirred for another 30 minutes. The suspension was filtered by Celite. After adding of dichloromethane, separating of the organic layer, washing it with water, drying it with Na2SO4 and evaporating of the solvent, followed.

reactant | Et3N | 37.5 mmol, 5.4 mL | CCN(CC)CC | C6H15N
reactant | AlCl3 | 27.5 mmol, 3.70 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-phenylpiperazine | 27.5 mmol, 4.21 ml | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | delta-valerolactone | 25 mmol, 2.32 mL | C1(CCCCO1)=O | C5H8O2
solvent | dichloroethane | 20mL | ClC(C)Cl | C2H4Cl2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | 2-dichloroethane | C(CCl)Cl | C2H4Cl2
product | 5-hydroxy-1-(4-phenylpiperazin-1-yl)pentan-1-one | OCCCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C15H22N2O2
